US07119205B2
2-(2-Cyano-acetylamino)-4-(4-diallylaminophenyl)-5-chloro-thiophene-3-carboxylic acid ethyl ester
An ambient mixture of 2-(2-cyano-acetylamino)-4-(4-aminophenyl)-5-chloro-thiophene-3-carboxylic acid ethyl ester (365 mg, 1.00 mmol), NaHCO3 (210 mg, 2.50 mmol), and allyl bromide (0.173 mL, 2.00 mmol) in DMF (3.5 mL) was stirred for 18 h. The reaction was then diluted with H2O (5 mL) and Et2O (5 mL). The layers were separated, and the aqueous was extracted with additional Et2O (2×5 mL). The combined organic layers were dried with anhydrous Na2SO4, filtered, and concentrated under reduced pressure to an oil that was used without further purification. MS (ESI) m/e 442 (M−H)−.

reactant | 2-(2-cyano-acetylamino)-4-(4-aminophenyl)-5-chloro-thiophene-3-carboxylic acid ethyl ester | 1.00 mmol, 365 mg | C(C)OC(=O)C1=C(SC(=C1C1=CC=C(C=C1)N)Cl)NC(CC#N)=O | C16H14ClN3O3S
reactant | NaHCO3 | 2.50 mmol, 210 mg | C(=O)(O)[O-].[Na+]
reactant | allyl bromide | 2.00 mmol, 0.173 mL | C(C=C)Br | C3H5Br
reactant | Et2O | 5 mL | CCOCC | C4H10O
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 5 mL | O | H2O
product | 2-(2-Cyano-acetylamino)-4-(4-diallylaminophenyl)-5-chloro-thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(SC(=C1C1=CC=C(C=C1)N(CC=C)CC=C)Cl)NC(CC#N)=O | C22H22ClN3O3S
